US08685969B2
8. 1-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxylic acid
To a yellow, homogeneous solution of methyl 1-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino [4,5-b]indole-4-carboxylate (0.05 g, 0.090 mmol) in THF (1.924 mL) and MeOH (0.641 mL) was added a solution of lithium hydroxide hydrate (0.015 g, 0.359 mmol) in water (0.5 mL). After 2.25 hr, the reaction was concentrated in vacuo, acidified with aqueous 1 N HCl to pH ˜4-5 by litmus paper. The precipitate was filtered and dried over Drierite to give the desired product (0.0206 g, 0.038 mmol, 42.3% yield) as a light tan solid.

reactant | methyl 1-(3-(6-chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino [4,5-b]indole-4-carboxylate | 0.090 mmol, 0.05 g | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=NN=C(C=2NC=3C=C(C=CC3C21)OCCOC)C(=O)OC)C | C30H25ClN4O5
reactant | lithium hydroxide hydrate | 0.359 mmol, 0.015 g | O.[OH-].[Li+]
solvent | THF | 1.924 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.641 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 1-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxylic acid | 0.038 mmol, 0.0206 g, 42.3% yield | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=NN=C(C=2NC=3C=C(C=CC3C21)OCCOC)C(=O)O)C | C29H23ClN4O5
